Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
elective admission for HD -MTX
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr ___ is a ___ yo man with DLBCL with recent progression 
with leptomeningeal lymphomatosis admitted electively for 
HD-MTX.
Pt has tolerated previous treatments well. Since starting HD-MTX 
his strength in his legs and pain have improved significantly.He 
continues to work full time nad ambulating with a cane.He does 
note new left hand cramps x last several days.No other new 
neurological symptoms.
Pt denies fevers, chills, n/v, HAs, cp/sob, cough, abdominal 
pain, chnage ib BMS, dysuria/frequency. All othe rten point ROS 
is negative.
 
Past Medical History:
HEMATOLOGIC HISTORY:  
-___ Presented to OSH with pain in R hip and groin. Plain  
film showed lucency in R superior ramus. CT showed multiple  
enlarged pericardial lymph nodes, bulky disease in abdomen and  
pelvis, multiple hypoattenuating masses in the liver up to 7 cm, 
 bilateral renal masses, destructive expansile lesion in in 
right pubic tubercle, lytic lesion in T6.  
-___ CT-guided biopsy revealed aggresssive diffuse large  
B-cell lymphoma, with 80% proliferation rate. FISH positive for 
BCL6, MYC and IGH/MYC translocations.  
-___ PET scan showed bilateral FDG avid mediastinal and  
internal mammary LAD.  
-___ BM biopsy showed atypical lymphocytosis and eryhtroid  
hyperplasia, 10% small-sized monoclonal B-cells.  
-Echo showed EF 55-60% with evidence of diastolic dysfunction.  
-___ Admitted for cycle #1 EPOCH, febrile on admission.  
Rituximab given as outpatient.  
-___ Admitted for cycle #2 EPOCH.  
-___ Admitted for cycle #3 EPOCH.  
-___ Admitted for cycle #4 EPOCH.  
-___ Admitted for cycle #5 EPOCH.
IT MTX -___
IT ___
IT MTX -___
IT ___
- ___ - ___ Admitted for back pain secondary to  
extramedullary intradural lesion in the thecal sac at L1 caused 
by leptomeningeal spread as well as thickening of nerve roots of 
cauda equinathecal sac mass found to be diseae recurrance by LP 
cytology.  He was started on high-dose MTX which he tolerated 
well.

.  
OTHER PMH:  
CAD s/p angioplasty and ___ ___ to ___ Diag.  
Normal stress test ___ (completed ~ 12 minutes on ___.  
HTN.  
Hyperlipidemia.  
Vasectomy.  
OSA s/p uvulopalatopharngoplasty.  
Chronic sinus complaints.  
Tonsillectomy.  

 

 
Social History:
___
Family History:
Father with hx of colon cancer. No family hx of any blood 
disorders or other cancers that he is aware of. 
 
Physical Exam:
T 97.7 P 90 BP 110/70 RR 20 O2 sat 94% WT 246.2
HEENT:  Oropharynx is clear without any erythema, lesions, or
thrush.
NECK:  Supple without adenopathy.
LYMPHATICS:  No infraclavicular, supraclavicular, axillary, or
inguinal adenopathy noted.
CHEST:  Clear to auscultation.
HEART:  Regular rate and rhythm, S1, S2.  No clicks, murmurs, or
rubs.
ABDOMEN:  Normal bowel sounds, soft, nontender, and nondistended
without palpable hepatosplenomegaly though question of some
fullness in his right upper quadrant, which is stable.
EXTREMITIES: left ___ edema< RLE.
SKIN:  Without rashes.
Neuro: CII-CXII grossly intact. strength ___ in major muscle 
groups, gait not tested
 
Pertinent Results:
___ 11:35AM BLOOD WBC-10.9 RBC-4.19* Hgb-12.9* Hct-38.2* 
MCV-91 MCH-30.9 MCHC-33.8 RDW-16.3* Plt ___
___ 11:35AM BLOOD Neuts-84.5* Lymphs-8.7* Monos-6.5 Eos-0.1 
Baso-0.1
___ 09:12PM BLOOD ___ PTT-26.0 ___
___ 11:35AM BLOOD UreaN-22* Creat-1.0 Na-136 K-4.7 Cl-98 
HCO3-27 AnGap-16
___ 09:12PM BLOOD ALT-49* AST-19 LD(LDH)-347* AlkPhos-49 
TotBili-0.3
___ 09:12PM BLOOD Albumin-4.0 Calcium-8.8 Phos-3.7 Mg-2.2
.
Bilateral ___  ___  ultrasound
1. Partial occlusive thrombus within the left distal SFV and 
occlusive thrombus within the left popliteal veins extending 
into the left calf veins.  
3. Occlusive thrombus within the right peroneal veins.  
.  
MRI of ___  
1. Nonspecific scattered FLAIR hyperintense foci. No abnormal 
enhancement to suggest mass lesion. However, leptomeningeal 
involvement cannot be completely excluded given the history of 
disease in the L-spine.  
2. Left mastoid mucosal thickening and fluid.  
3. Slightly prominent right ICA termination, to correlate with 
MR angiogram as recommended earlier.  
.  
MRI of C/T/L ___  
1. C-spine: Multilevel, multifactorial degenerative changes, 
most prominent at C5-6 level with moderate canal and 
moderate-to-severe bilateral foraminal narrowing with deformity 
on the C6 nerves on both sides.  
2. Multilevel Schmorl's nodes noted in the thoracic and the 
lumbar spine.  
3. Decrease in the size of the previously noted enhancing lesion 
in the thecal sac, at L1 level and lower down in the lumbar 
spine with slightly decreased enhancement in the nerves of the 
thecal sac and surface of the cord. No obvious new lesions in 
the cord. Multilevel degenerative changes in the lumbar spine, 
with moderate-severe bilateral foraminal narrowing at L4-5 and 
L5/S1 levels predominantly as seen before.  
.
___ ___ Methotrexate level: 0.___ male with DLBCL with CNS relapse, CAD, diastolic 
CHF, h/o UE DVTs admitted for cycle #3 HD-MTX. Lower extremity 
ultrasound for swelling revealed new DVT and patient was started 
on levenox BID.  
.  
# DLBCL/CNS relapse: Chemotherapy treatment included:  
-MTX 8 gram/m2 (capped at BSA of 2) with IV and oral bicarb to 
keep urine pH at 8. Discharged to home when MTX level was < 0.10 
without oral leucovorin or bicarbonate.  
-leucovorin rescue, 24 hr after MTX.  
-Monitored MTX level daily after 24 hrs.  
-Held aspirin, PPI, simvastatin and bactrim while receiving MTX- 
all were resumed at discharge.  
-Daily cbc and chem 10.  
-Continued dexamethasone.  
-MRI of brain and c/t/l spine because of new LEU cramps shows no 
new disease and response of known lumber spine disease.  
 .  
# Bilateral ___ DVTs: Started lovenox ___ mg BID. Platelets were 
followed closely.   
.  
# CAD:  
- continude on medical management with beta blocker.  
- Aspirin on held during MTX, resumed at dicharge.  
.  
# HTN: History of hypertensive urgency on previous admission, 
when blood pressure meds were uptitrated. BPs observed closely. 
Continued on metoprolol, amlodipine, and lisinopril.  
.  
# Pain: Bilateral lower extremity pain from leptomeningeal 
carcinomatosis.  
- continued MS ___  
- continued ___ morphine prn for breakthrough  
.  
# Smoking cessation: History of smoking.  
- continued nicotine patch .  
.  
FEN: MTX diet  
.  
PPx:on therapeutic lovenox, ranitidine for GI protection will 
change back to protonix at discharge.  
.  
Precautions for: none  
.  
Lines: peripheral.  
.
CODE: FULL.  

 
Medications on Admission:
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - 2 puffs po four
times a day as needed for cough/wheezing/shortness of breath
AMLODIPINE -  (Dose adjustment - no new Rx) - 10 mg Tablet - 1
Tablet(s) by mouth in the morning
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 500 mcg-50 mcg/Dose 
Disk
with Device - 1 inhalation po twice daily
LISINOPRIL -  (Dose adjustment - no new Rx) - 5 mg Tablet - 1
Tablet(s) by mouth in the evening
METOPROLOL SUCCINATE -  (Dose adjustment - no new Rx) - 100 mg
Tablet Extended Release 24 hr - 2 Tablet(s) by mouth in the
morning
NITROGLYCERIN -  (Prescribed by Other Provider) - Dosage
uncertain
OXYCODONE - 10 mg Tablet - 1 Tablet(s) by mouth q6-8h as needed
for pain
OXYCODONE [OXYCONTIN] -  (Dose adjustment - no new Rx) - 40 mg
Tablet Extended Release 12 hr - 1 Tablet(s) by mouth every eight
(8) hours
SIMVASTATIN -  (Prescribed by Other Provider) - 20 mg Tablet - 1
Tablet(s) by mouth at bedtime
ASPIRIN -  (Dose adjustment - no new Rx) - 81 mg Tablet, 
Chewable
- 2 Tablet(s) by mouth DAILY (Daily)
MULTIVITAMIN -  (Prescribed by Other Provider) -   Tablet - 1
Tablet(s) by mouth daily
NICOTINE -  (Dose adjustment - no new Rx) - 21 mg/24 hour Patch
24 hr - 1 Patch(s) DAILY (Daily)
Bactrim
dex 4 q8h

 
Discharge Medications:
1. enoxaparin 120 mg/0.8 mL Syringe Sig: One ___ (110)  
Subcutaneous Q12H (every 12 hours).
Disp:*60 syringes* Refills:*2*
2. Outpatient Lab Work
CBC on ___.
Results to be faxed to Dr ___
3. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
4. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
5. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*60 Disk with Device(s)* Refills:*2*
6. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
in the evening.
Disp:*30 Tablet(s)* Refills:*2*
7. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: Two (2) Tablet Extended Release 24 hr PO DAILY (Daily): in 
the morning.
Disp:*60 Tablet Extended Release 24 hr(s)* Refills:*2*
8. nitroglycerin 0.3 mg Tablet, Sublingual Sig: ___  Sublingual 
with chest pain.
Disp:*100 tablets* Refills:*2*
9. oxycodone 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for fever or pain.
Disp:*60 Tablet(s)* Refills:*0*
10. oxycodone 40 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q8H (every 8 hours).
Disp:*90 Tablet Extended Release 12 hr(s)* Refills:*0*
11. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
12. Aspirin Low-Strength 81 mg Tablet, Chewable Sig: Two (2) 
Tablet, Chewable PO once a day.
Disp:*60 Tablet, Chewable(s)* Refills:*2*
13. multivitamin     Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
14. nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*2*
15. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours).
Disp:*90 Tablet(s)* Refills:*0*
16. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).
Disp:*90 Tablet(s)* Refills:*2*
17. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
18. Bactrim 400-80 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
encounter for anti-neoplastic chemotherapy
lymphoma
DVT
pain-related to neoplasm
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr ___ you were admitted for chemotherapy treatment. You 
had an MRI of your brain and total spine because of new cramping 
in your left hand. MRI did not show disease in your brain or new 
disease in your spine and the disease in your lumber spine has 
improved.You were also diagnosed with a new left and right deep 
venous thrombosis (blood clots) in your legs and started on 
lovenox. You received treatment with methotrexate and tolerated 
the treatment well without any significant adverse events.
.
Please contact ___ ___ with any questions or concerns.
.
The following changes have been made to your medications:
START Lovenox ___ mg sc BID 

 
Followup Instructions:
___